US08022075B2
2-Amino-4-bromobenzenethiol (44)
The procedure of Referential Example 16 was repeated, except that 3-bromophenyl isothiocyanate (25.0 g) serving as a starting material was used, to thereby yield N-(3-bromophenyl)thiourea (19.4 g) as colorless crystals. Subsequently, The procedure of Referential Example 17 was repeated, to thereby yield 2-amino-5-bromobenzothiazole (1.21 g). Thereafter, The procedure of Referential Example 18 was repeated, to thereby yield the title compound (227 mg).

reactant | 3-bromophenyl isothiocyanate | 25.0 g | BrC=1C=C(C=CC1)N=C=S | C7H4BrNS
reactant | N-(3-bromophenyl)thiourea | 19.4 g | BrC=1C=C(C=CC1)NC(=S)N | C7H7BrN2S
reactant | 2-amino-5-bromobenzothiazole | 1.21 g | NC=1SC2=C(N1)C=C(C=C2)Br | C7H5BrN2S
product | 2-Amino-4-bromobenzenethiol | 227 mg | NC1=C(C=CC(=C1)Br)S | C6H6BrNS
